US08487108B2
A 50 mL flask was charged with methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate (100 mg, 0.15 mmol) and Pd(OH)2 (20 mg) dissolved in MeOH (5 mL) under H2. After stirring for 0.5 hr, the mixture was filtered, evaporated to give crude methyl 2-((R)—((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate (20 mg, 21%), which was used without further purification.

reactant | methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate | 0.15 mmol, 100 mg | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CC1CCOCC1)=O | C32H53ClN4O7Si
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd(OH)2 | 20 mg | [OH-].[OH-].[Pd+2]
product | methyl 2-((R)—((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 20 mg, 21% | CN(C(=O)OCC[Si](C)(C)C)C[C@H](CC1CCOCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C32H54N4O7Si
